US04943311
Preparation of 3',4'-Dihydro-2'-(1H-1,2,4-Triazol-1-yl)-Spiro-[1,3-Dioxolane-2,1'(2'H)-Naphthalene] (Compound No. 35)
A mixture of 10 g. 3,4-dihydro-2-(1H-1,2,4-triazol-1-yl)-1-(2H)-naphthalenone, 5.8 g. ethylene glycol and 11.5 g. p-toluenesulfonic acid was refluxed in a mixed solvent of 150 ml. toluene and 70 ml. n-butanol under a Dean-Stark [trademark] trap for 48 hours. The solvent was evaporated leaving a slurry which was taken up in dichloromethane and washed twice with 10% aqueous sodium hydroxide and once with water. The extract was dried in sodium sulfate, filtered and evaporated leaving an oily residue which crystallized on cooling to yield 1.5 g. of white crystals. These white crystals were 3',4'-dihydro-2'-(1H-1,2,4-triazole-1-yl)-spiro-[1,3-dioxolane-2,1'(2'H)-naphthalene. This compound had a melting point of 108° C.

reactant | 3,4-dihydro-2-(1H-1,2,4-triazol-1-yl)-1-(2H)-naphthalenone | N1(N=CN=C1)C1C(C2=CC=CC=C2CC1)=O | C12H11N3O
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | n-butanol | C(CCC)O | C4H10O
product | 3',4'-Dihydro-2'-(1H-1,2,4-Triazol-1-yl)-Spiro-[1,3-Dioxolane-2,1'(2'H)-Naphthalene] | N1(N=CN=C1)C1C2(C3=CC=CC=C3CC1)OCCO2 | C14H15N3O2
